US06455525B1
To a cold solution (0° C.) of 4-bromo-indole-3-carboxaldehyde (0.767 g, 3.4 mmol) in dry DMF (2 mL) was added NaH (60% dispersion in mineral oil, 173 mg, 4.37 mmol). The resulting mixture was stirred at 0° C. for 20 min. Iodomethane (0.8 mL, excess) was added to the reaction mixture in a drop wise fashion. The cooling bath was removed and the resulting mixture was stirred at room temperature for 1.5 h. The mixture was quenched with water and was extracted repeatedly from EtOAc. The combined organic extracts were washed with water (twice) and brine. After drying over magnesium sulfate, solvent was removed. The resulting solid was taken in hexane and sonicated for 30 min, filtered to provide the product, 4-bromo-1-methyl-indole-3-carboxaldehyde (0.687 g, 85% yield). A mixture of 4-bromo-1-methyl-indole-3-carboxaldehyde (109 mg, 0.45 mmol), phenyl boronic acid (85 mg, 0.69 mmol) in DMF (4 mL) was degassed (argon). To the mixture was added bis(triphenylphosphine)-palladium II chloride (25 mg, 0.035 mmol) followed by addition of 2M Na2CO3 solution (2 mL, 4 mmol) and the mixture was stirred under argon at 100° C. for 18.5 h and then at reflux for 3 h. The mixture was cooled to room temperature. The reaction mixture was diluted with water and extracted repeatedly with ethyl acetate. The combined extract was washed with water (twice) and brine. After drying over anhydrous magnesium sulfate, solvent was removed in vacuo and the crude product was purified by flash chromatography (hexane:EtOAc 1:1). The desired product was isolated as syrup (79% yield). MS: 236, 238.

reactant | 4-bromo-indole-3-carboxaldehyde | 3.4 mmol, 0.767 g | BrC1=C2C(=CNC2=CC=C1)C=O | C9H6BrNO
reactant | NaH | 4.37 mmol, 173 mg | [H-].[Na+]
reactant | Iodomethane | 0.8 mL | IC | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-bromo-1-methyl-indole-3-carboxaldehyde | 0.687 g, 85% yield | BrC1=C2C(=CN(C2=CC=C1)C)C=O | C10H8BrNO
